US05834463
(3aR*,10aS*)-9-(4-Benzyloxybenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-(4-benzyloxybenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b ]cyclopenta[e][1,4]diazepin-10(1H)-one (3.1 g, 7.8 mmol) in 1,2-dichloroethane was added phthalimidoacetyl chloride (1.9 g, 8.5 mmol). The mixture was refluxed for 17 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate. The aqueous layer was separated. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, dried over magnesium sulfate and subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was parified by silica-gel column chromatography (hexane-ethyl acetate 1:3), which was crystallized from diethyl ether to give the desired product (1.9 g, 42%), m.p.179°-181° C.

reactant | (3aR*,10aS*)-9-(4-benzyloxybenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b ]cyclopenta[e][1,4]diazepin-10(1H)-one | 7.8 mmol, 3.1 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C26H26N2O2
reactant | phthalimidoacetyl chloride | 8.5 mmol, 1.9 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (3aR*,10aS*)-9-(4-Benzyloxybenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 1.9 g, 42% | C(C1=CC=CC=C1)OC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C36H31N3O5
